Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / aloe / lanolin
 
Attending: ___
 
Chief Complaint:
speech difficulty
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ man history of multiple vascular
risk factors and CAD s/p CABG who presents with acute onset of
aphasia.
Mr. ___  was in his usual state of health until going to bed
last night. Spoke with family members yesterday evening.  This
morning he woke up feeling well and first spoke at approximately
10:00, at which time he called a family member.  He lives alone
had not spoken earlier that morning.  His speech was noted to be
abnormal by both his daughter and Mr. ___ himself.  EMS was
called and he was taken to ___, where he received ASA
324 mg and NCHCT showed no evidence of acute infarct, no early
infarct signs, no dense MCA sign, and no hemorrhage. 
Tele-neurology was consulted and recommended against acute
interventions due to unclear onset of symptoms.  He was
subsequently transferred to ___.

 
Past Medical History:
CABG ___
Prostate cancer in ___, status post removal
Abdominal hernia repair
Bilateral cataract surgeries
Renal cell carcinoma status post left nephrectomy
Left THA with subsequent chronic left leg weakness
 
Social History:
___
Family History:
Maternal uncle with stroke in his ___.
 
Physical Exam:
===ADMISSION EXAM===
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac: RRR. Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history with some difficulty. Attentive to exam.  Speech is
telegraphic, with reduced frequency, agrammatism, and occasional
paraphasic errors.  Naming intact to medium and most
low-frequency words.  Unable to name the hammock on stroke card. 

Reading intact.  Follows complex cross-body appendicular
commands. No evidence of hemineglect. No left-right confusion. 

-Cranial Nerves: PERRL2->1. VFF to confrontation. EOMI without
nystagmus with the exception of mild limitation of upgaze WNL 
for
age.  Face symmetric at rest and with activation. Hearing intact
to loud conversation. Palate elevates symmetrically. ___ 
strength
in trapezii bilaterally. Tongue protrudes in midline and moves
briskly to each side.

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc        
L  5    ___   ___  2   5    4  5                    
R  5    ___   ___ 5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  1  1    1    1   0                    -
 R  1  1    1    1   0                    -
Plantar response was flexor bilaterally.

-Sensory: Intact to LT, PP throughout. No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: Deferred

===DISCHARGE EXAM===
Gen: NAD, sitting up in chair.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac: RRR. Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:
MS: fluent language with frequent hesitation/stutters, with some 
difficulty with grammar; multiple phonemic paraphasic errors; 
intact comprehension, reading, and naming; no dysarthria
CN: PERRL, EOMI, face symmetric
Motor: no pronator drift, no significant weakness in any muscle 
group tested
Sensory: grossly intact to LT
Gait: normal stance and gait
 
Pertinent Results:
===ADMISSION LABS===

___ 12:38PM BLOOD WBC-9.0 RBC-5.08 Hgb-14.6 Hct-45.7 MCV-90 
MCH-28.7 MCHC-31.9* RDW-13.2 RDWSD-43.3 Plt ___
___ 12:38PM BLOOD ___ PTT-29.9 ___
___ 12:38PM BLOOD Glucose-101* UreaN-29* Creat-1.7* Na-141 
K-4.6 Cl-107 HCO3-22 AnGap-17
___ 12:38PM BLOOD ALT-14 AST-18 AlkPhos-115 TotBili-0.6
___ 12:38PM BLOOD cTropnT-<0.01

===RELEVANAT LABS AND IMAGING===

___ 09:00AM BLOOD %HbA1c-6.1* eAG-128*
___ 07:30AM BLOOD Triglyc-122 HDL-34 CHOL/HD-3.9 LDLcalc-74
___ 07:30AM BLOOD TSH-2.2

MRI ___
1. Late acute infarct in the left insula. 
2. Evolving subacute infarction in the left precentral gyrus, 
without 
associated intracranial hemorrhage. 
3. Diffuse parenchymal volume loss with probable chronic small 
vessel ischemic disease, as above. 
4. Chronic lacunar infarction in the right thalamus. 
5. Mild paranasal sinus disease. 
6. Suggestion of mild narrowing of the distal left M1 segment of 
the middle cerebral artery. 
7. Atherosclerotic disease at the carotid bifurcations with 
approximately 40% right and no left internal carotid stenosis by 
NASCET criteria. 
8. Patency of the bilateral vertebral arteries. 

CAROTID ULTRASOUND ___
Less than 40% stenosis of the bilateral internal carotid 
arteries. 
  
TTE ___
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is mildly 
dilated. There is mild regional left ventricular systolic 
dysfunction with basal inferior and inferolateral hypokinesis. 
The remaining segments contract normally (LVEF = 50%). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. There is an anterior space which most likely 
represents a prominent fat pad.
  

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital with acute onset 
aphasia. NIHSS was 3. He was eventually found to have an infarct 
in the left insula and precentral gyrus on MRI, with notable 
language deficits (Broca aphasia) with subsequent improvement. 
The most likely etiology was felt to be cardioembolic from 
paroxysmal atrial fibrillation, especially considering the 
possibility of undiagnosed obstructive sleep apnea, or 
atheroembolic (artery-to-artery) from what appeared to be a left 
distal M1 stenosis on MRA. We considered further 
characterization of the possible M1 stenosis with a CTA; 
however, the patient and the family declined given solitary 
kidney and underlying chronic kidney disease. Therefore, the 
decision was made to start him on dual antiplatelet therapy and 
maximum dose atorvastatin per the SAMPRISS trial, while 
continuing to work him up for paroxysmal atrial fibrillation. A 
transthoracic echo did not show any evidence of intracardiac 
thrombus. Carotid ultrasound showed less than 40% stenosis 
bilaterally. He was discharged with Holter monitoring. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 74) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

Transitional Issues for Outpatient Providers
[ ] Follow up with stroke neurology as above
[ ] Holter monitoring
[ ] Continue aspirin 325mg indefinitely, Plavix for 3 months
[ ] Recommend outpatient sleep study
[ ] Elevated A1c on admission, consider lifestyle medication ___ 
medical therapy
[ ] Outpatient speech therapy ordered
[ ] Long term blood pressure goal <140
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 180 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO QPM 
3. HydrALAZINE 20 mg PO BID 
4. Vitamin D ___ UNIT PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Furosemide 40 mg PO 3X/WEEK (___) 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Cetirizine 20 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
2.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
3.  Aspirin 325 mg PO DAILY  
4.  Cetirizine 20 mg PO DAILY:PRN allergies  
5.  Diltiazem Extended-Release 180 mg PO DAILY  
6.  Furosemide 40 mg PO 3X/WEEK (___)  
7.  HydrALAZINE 20 mg PO BID  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute ischemic stroke, likely embolic (cardiac vs atheroembolic)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of difficulty speaking 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
HIGH BLOOD PRESSURE
CORONARY ARTERY DISEASE

We are changing your medications as follows:
<>
Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___